US07291631B2
To a solution of (3,5-dimethyl-pyridin-2-ylmethyl)-isoquinolin-1-ylmethyl-piperidin-4-yl-amine (118 mg, 0.327 mmol) in anhydrous THF (3.5 mL) was added N-(phenoxycarbonyl)hydroxylamine (57.5 mg, 0.344 mmol). The mixture was warmed to reflux and stirred for 17 h, then cooled to ambient temperature and concentrated to a yellow solid. Purification by column chromatography on silica gel (eluted with CH2Cl2/MeOH/NH4OH) follow by purification by radial chromatography (eluted with CH2Cl2/MeOH/NH4OH 94:5:1) afforded 4-[(3,5-Dimethyl-pyridin-2-ylmethyl)-isoquinolin-1-ylmethyl-amino]-piperidine-1-carboxylic acid hydroxyamide (86 mg, 61%) as a yellow solid. 1H NMR (CDCl3) δ 1.69-1.79 (m, 2H), 1.96 (d, 1H, J=11.1 Hz), 2.04 (s, 3H), 2.27 (s, 3H), 2.63-2.77 (m, 3H), 3.85 (s, 2H), 4.05 (d, 2H, J=12.7 Hz), 4.25 (s, 2H), 6.88 (s, 1H), 7.22 (s, 1H), 7.35 (t, 1H, J=7.7 Hz), 7.54 (d, 1H, J=5.9 Hz), 7.59 (t, 1H, J=7.5 Hz), 7.75 (d, 1H, J=8.1 Hz), 7.87 (d, 1H, J=8.5 Hz), 8.18 (s, 1H), 8.39 (d, 1H, J=5.7 Hz); 13C NMR (CDCl3) δ 17.9, 18.1, 26.9, 43.8, 53.4, 54.6, 57.7, 120.6, 126.3, 126.9, 127.7, 129.8, 132.0, 132.9, 136.3, 138.9, 141.3, 146.4, 153.8, 158.9, 160.7; ES-MS m/z 420 (M+H). Anal Calcd. For C24H29N5O2.0.1(CH2Cl2): C, 67.63; H, 6.88; N, 16.36. Found: C, 67.59; H, 6.99; N, 16.02.

reactant | (3,5-dimethyl-pyridin-2-ylmethyl)-isoquinolin-1-ylmethyl-piperidin-4-yl-amine | 0.327 mmol, 118 mg | CC=1C(=NC=C(C1)C)CN(C1CCNCC1)CC1=NC=CC2=CC=CC=C12 | C23H28N4
reactant | N-(phenoxycarbonyl)hydroxylamine | 0.344 mmol, 57.5 mg | O(C1=CC=CC=C1)C(=O)NO | C7H7NO3
solvent | THF | 3.5 mL | C1CCOC1 | C4H8O
product | 4-[(3,5-Dimethyl-pyridin-2-ylmethyl)-isoquinolin-1-ylmethyl-amino]-piperidine-1-carboxylic acid hydroxyamide | 86 mg, 61% | ONC(=O)N1CCC(CC1)N(CC1=NC=CC2=CC=CC=C12)CC1=NC=C(C=C1C)C | C24H29N5O2
